US07994423B2
2,5-Bis-(3,5-bis-trifluoromethyl-phenyl)-3,4-dinitro-thiophene was made by Stille coupling reaction of 2,5-dibromo-3,4-dinitro-thiophene and 3,5-bis-trifluoromethyl-phenyl-tributyl-stannane. It was reduced with tin (II) chloride dihydrate in ethanol to give 2,5-bis-(3,5-bis-trifluoromethyl-phenyl)-thiophene-3,4-diamine. The diamine was reacted with hexaketocyclohexane octahydrate to give compound A. The product is a red-brown solid. It is soluble in common organic solvents such as dichloromethane and THF. It was purified by flash chromatography on silica gel and crystallization in ethanol. The purified product had elemental analysis data consistent with the formula for the desired compound.

reactant | 2,5-Bis-(3,5-bis-trifluoromethyl-phenyl)-3,4-dinitro-thiophene | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1SC(=C(C1[N+](=O)[O-])[N+](=O)[O-])C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F | C20H6F12N2O4S
reactant | 2,5-dibromo-3,4-dinitro-thiophene | BrC=1SC(=C(C1[N+](=O)[O-])[N+](=O)[O-])Br | C4Br2N2O4S
reactant | 3,5-bis-trifluoromethyl-phenyl-tributyl-stannane | FC(C=1C=C(C=C(C1)C(F)(F)F)[Sn](CCCC)(CCCC)CCCC)(F)F
reactant | tin (II) chloride dihydrate | O.O.[Sn](Cl)Cl
solvent | ethanol | C(C)O | C2H6O
product | 2,5-bis-(3,5-bis-trifluoromethyl-phenyl)-thiophene-3,4-diamine | FC(C=1C=C(C=C(C1)C(F)(F)F)C=1SC(=C(C1N)N)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(F)F | C20H10F12N2S
